US08193203B2
2-Bromo-N-isopropyl-N-methylaniline (Compound 219)
To a solution of 2-bromo-N-methylaniline (2.07 g, 11.22 mmol), in dichloroethane (45 mL) was added acetone (1.31 g, 22.5 mmol), AcOH (4.04 g, 67.32 mmol) and Na(OAc)3BH (7.14 g, 33.66 mmol) sequentially at RT. The mixture was stirred for 72 h. The reaction was cooled with ice bath, and 2M NaOH (100 mL) was added slowly, then stirred for 5 min. The organic layer was separated, washed with brine dried and solvent removed. The crude product contained a mixture of 2:1 ratio of Compound 219 and starting material. This mixture was used as is in the next step.

reactant | 2-bromo-N-methylaniline | 11.22 mmol, 2.07 g | BrC1=C(NC)C=CC=C1 | C7H8BrN
reactant | acetone | 22.5 mmol, 1.31 g | CC(=O)C | C3H6O
reactant | AcOH | 67.32 mmol, 4.04 g | CC(=O)O | C2H4O2
reactant | Na(OAc)3BH | 33.66 mmol, 7.14 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 2M, 100 mL | [OH-].[Na+]
solvent | dichloroethane | 45 mL | ClC(C)Cl | C2H4Cl2
product | 2-Bromo-N-isopropyl-N-methylaniline | BrC1=C(N(C)C(C)C)C=CC=C1 | C10H14BrN
